US08383742B2
Synthesis method: 2,2-bis(trifluoromethyl)benzidine was dissolved in tetrahydrofuran followed by the addition of maleic anhydride and allowing to react for 30 minutes while heating at 60° C. Subsequently, pyridine and acetic anhydride were added followed by additionally reacting for 1 hour. The solvent was removed from the resulting reaction solution with an evaporator and the resulting solid was recrystallized with acetic anhydride to obtain a pure product of 2-trifluoromethyl-4-maleimidophenyl biphenyl.

reactant | 2,2-bis(trifluoromethyl)benzidine | FC(C1(C(=CC=C(C1)N)C1=CC=C(N)C=C1)C(F)(F)F)(F)F | C14H12F6N2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-trifluoromethyl-4-maleimidophenyl biphenyl | FC(C1=C(C=CC(=C1)N1C(C=CC1=O)=O)C1=C(C=CC=C1)C1=CC=CC=C1)(F)F | C23H14F3NO2
